* C:\Users\Parmeet Singh Ghai\Documents\GitHub\AutomatedLockSystem\LTSpice\Draft1.asc
XU1 0 N007 NC_01 NC_02 NC_03 NC_04 NC_05 NC_06 NC_07 NC_08 NC_09 NC_10 NC_11 NC_12 Q4 0 CD4040B vdd=5 speed=1 tripdt=5n vdd1={vdd} speed1={speed} tripdt1={tripdt}
V1 N007 0 5
XU2 0 Q4 N001 LT1086-5
C1 N001 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C3 N001 0 10µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61E106KA73" type="X5R"
C2 Q4 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C4 Q4 0 10µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61E106KA73" type="X5R"
V2 N001 0 8.4 Rser=0.150
M1 N004 N005 N006 N006 AO6407
D1 N009 Q4 1N4148
D2 N009 Q4 1N4148
D3 N009 Q4 1N4148
D4 N009 Q4 1N4148
D5 Q4 N005 1N4148
D6 0 N005 1N4148
D7 0 N005 1N4148
D8 0 N005 1N4148
D9 0 N005 1N4148
D10 0 N005 1N4148
D11 0 N005 1N4148
D12 0 N005 1N4148
M2 N004 N009 N010 N010 AO6408
R3 N010 0 10K tol=1 pwr=0.25
R4 0 N005 100K tol=1 pwr=0.25
R5 N009 Q4 4.7K tol=1 pwr=0.25
R1 Q4 N006 1K tol=1 pwr=0.25
R2 N006 0 4.7K tol=1 pwr=0.25
XU3 N003 Q4 N008 EN sq0 sq1 sq2 sq3 sq4 P001 NC_13 NC_14 Q4 0 74HC164 vcc=5 speed=1 tripdt=5n vcc1={vcc} speed1={speed} tripdt1={tripdt}
V3 N003 0 PULSE(0 5 0 1n 1n 0.1 0.2)
R6 N008 Q4 4.7K
A1 P002 0 0 0 0 N012 0 0 BUF Vhigh=5
R7 0 N002 10K
R8 N002 P001 4.7K
D13 sq1 N011 1N4148
D14 sq2 N011 1N4148
D15 sq3 N011 1N4148
D16 sq4 N011 1N4148
R9 P002 N011 4.7K
R10 EN N013 4.7K
D17 N012 N013 1N4148
D18 sq4 N013 1N4148
.model D D
.lib C:\Users\Parmeet Singh Ghai\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Parmeet Singh Ghai\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 5 0 1 uic
.options reltol=0.01 abstol=1n chgtol=1p
.options gmin=1n cshunt=1p
.options itl1=500 itl2=5000 itl4=100
.include cd4000.lib
.lib 74hc.lib
.lib CD4000.lib
.lib LT1083.lib
.backanno
.end
