* C:\Users\Parmeet Singh Ghai\Documents\GitHub\AutomatedLockSystem\LTSpice\Draft1.asc
XU1 0 N010 NC_01 NC_02 NC_03 NC_04 NC_05 NC_06 NC_07 NC_08 NC_09 NC_10 NC_11 NC_12 Q4 0 CD4040B vdd=5 speed=1 tripdt=5n vdd1={vdd} speed1={speed} tripdt1={tripdt}
V1 N010 0 5
XU2 0 Q4 N006 LT1086-5
C1 N006 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C3 N006 0 10µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61E106KA73" type="X5R"
C2 Q4 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C4 Q4 0 10µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61E106KA73" type="X5R"
V2 N006 0 8.4 Rser=0.150
M1 N007 N008 N009 N009 AO6407
D1 N014 Q4 1N4148
D2 N014 Q4 1N4148
D3 N014 Q4 1N4148
D4 N014 Q4 1N4148
D5 Q4 N008 1N4148
D6 0 N008 1N4148
D7 0 N008 1N4148
D8 0 N008 1N4148
D9 0 N008 1N4148
D10 0 N008 1N4148
D11 0 N008 1N4148
D12 0 N008 1N4148
M2 N007 N014 N015 N015 AO6408
R3 N015 0 10K tol=1 pwr=0.25
R4 0 N008 100K tol=1 pwr=0.25
R5 N014 Q4 4.7K tol=1 pwr=0.25
R1 Q4 N009 1K tol=1 pwr=0.25
R2 N009 0 4.7K tol=1 pwr=0.25
XU3 N002 Q4 N011 N013 sq0 sq1 sq2 sq3 sq4 NC_13 NC_14 NC_15 Q4 0 74HC164 vcc=5 speed=1 tripdt=5n vcc1={vcc} speed1={speed} tripdt1={tripdt}
V3 N002 0 PULSE(0 5 0 1n 1n 0.1 0.2)
R6 N011 Q4 4.7K
D13 sq1 RESET 1N4148
D14 sq2 RESET 1N4148
D15 sq3 RESET 1N4148
D16 sq4 RESET 1N4148
XU4 RESET N003 N005 LOAD N001 N004 Q4 0 74HC393 vcc=5 speed=1 tripdt=5n vcc1={vcc} speed1={speed} tripdt1a={tripdt}
R11 N003 N002 4.7K
C6 Q4 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C7 Q4 0 10µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61E106KA73" type="X5R"
R13 RESET 0 10K
D19 LOAD N012 1N4148
C5 RESET 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
R7 N013 N012 4.7K
D17 sq4 N012 1N4148
.model D D
.lib C:\Users\Parmeet Singh Ghai\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Parmeet Singh Ghai\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 5 0 1 uic
.options reltol=0.01 abstol=1n chgtol=1p
.options gmin=1n cshunt=1p
.options itl1=500 itl2=5000 itl4=100
.include cd4000.lib
.include 74hc.lib
.lib 74hc.lib
.lib CD4000.lib
.lib LT1083.lib
.backanno
.end
